US08802684B2
Intermediate 33: Phenylmethyl 3-{[6-amino-2-(butyloxy)-8-(methyloxy)-9H-purin-9-yl]methyl}-1-piperidinecarboxylate
To a solution of 2-(butyloxy)-8-(methyloxy)-9H-purin-6-amine. trifluoroacetate salt (2.56 g, 7.29 mmol) in DMF (60 ml) was added potassium carbonate (4.03 g, 29.1 mmol) and the mixture was left to stir at 60° C. for one hour under an atmosphere of nitrogen. Reaction was then cooled to room temperature and to this was added phenylmethyl 3-(bromomethyl)-1-piperidinecarboxylate (2.275 g, 7.29 mmol). The reaction was bought back up to 50° C. and left to stir overnight. The reaction mixture was diluted with water (˜40 ml) and partitioned with a solvent mix of 1:1 ethyl acetate:DCM (40 ml). The organic layer was separated using hydrophobic frit and was concentrated in vacuo to give pale yellow thick oil. The crude material was dissolved in 1:1 DMSO:MeOH (5 ml) and half of this solution was initially purified on reverse-phase chromatography using a high pH system on a 330 g C18 silica column. The gradient used was the following:

reactant | 2-(butyloxy)-8-(methyloxy)-9H-purin-6-amine. trifluoroacetate salt | 7.29 mmol, 2.56 g | FC(C(=O)O)(F)F.C(CCC)OC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 29.1 mmol, 4.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenylmethyl 3-(bromomethyl)-1-piperidinecarboxylate | 7.29 mmol, 2.275 g | BrCC1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C14H18BrNO2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | water | ˜40 ml | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | Phenylmethyl 3-{[6-amino-2-(butyloxy)-8-(methyloxy)-9H-purin-9-yl]methyl}-1-piperidinecarboxylate | NC1=C2N=C(N(C2=NC(=N1)OCCCC)CC1CN(CCC1)C(=O)OCC1=CC=CC=C1)OC | C24H32N6O4
